US05856556
(3S, 4R)-4-([(S)-1-(N-(p-Nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-1[-p-nitrobenzyloxyethyl]-2-azetidinone
34 mg (0.038 mmole) of (3S, 4R)-4-([(S)-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)-prop-1-enyl]-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-2-azetidinone were dissolved in 10 ml of methylene chloride. Ozone was bubbled through the solution at -78° C. For 3 minutes. The mixture was then left to stand at that temperature for 10 minutes, after which nitrogen gas was bubbled through to drive out the excess ozone. 50 mg of dimethyl sulphide were then added to the mixture, which was then warmed to room temperature over about 10 minutes and poured into a mixture of ice and water. The chloroform layer was separated, washed with water and dried over anhydrous sodium sulphate. The solvent was distilled off, to afford 33 mg (yield 100%) of the title product as an oily substance.

reactant | (3S, 4R)-4-([(S)-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)-prop-1-enyl]-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-2-azetidinone | 0.038 mmole, 34 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N=C(C)N2C[C@H](CC2)SC(=O)C[C@@H]2[C@H](C(N2C(=C(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C41H42N6O15S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (3S, 4R)-4-([(S)-1-(N-(p-Nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-1[-p-nitrobenzyloxyethyl]-2-azetidinone | 33 mg, yield 100% | [N+](=O)([O-])C1=CC=C(COC(=O)N=C(C)N2C[C@H](CC2)SC(=O)C[C@@H]2[C@H](C(N2CCOCC2=CC=C(C=C2)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C38H40N6O14S
